US07776864B2
Step 3: 5-Chloro-2-ethyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine
6.00 g 5,7-dichloro-2-ethyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine is dissolved in 180 ml dichloromethane. 180 ml saturated brine, 120 ml ammonia solution 25% w/w and 6.00 g zinc powder are added and the mixture is stirred at room temperature for 3 h. The reaction mixture is filtrated over kieselgur and is washed with dichloromethane and water. The organic phase is separated and the water phase is extracted with dichloromethane. The combined organic layers are dried over Na2SO4 and the solvent is evaporated. The residue contained 2-ethyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine. This mixture is used without further purification for the next reaction.

reactant | 5,7-dichloro-2-ethyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine | 6.00 g | ClC1=NC=2N(C(=C1C1=CC=CC=C1)Cl)N=C(N2)CC | C13H10Cl2N4
reactant | ammonia | 120 ml | N | H3N
solvent | dichloromethane | 180 ml | ClCCl | CH2Cl2
solvent | brine | 180 ml | [Cl-].[Na+].O
catalyst | zinc | 6.00 g | [Zn] | Zn
product | 5-Chloro-2-ethyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine | ClC1=NC=2N(C=C1C1=CC=CC=C1)N=C(N2)CC | C13H11ClN4
